US06617339B1
3-(4-(4-((3R)-3-Hydroxy-4-trimethylammoniobutanoyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one chloride
3-(4-(4-((3R)-3-Acetoxy-4-trimethylarnmoniobutanoyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one chloride (200 mg, 0.33 mmol) and potassium carbonate (67 mg, 0.49 mmol) were stirred at ambient temperature under nitrogen in MeOH (20 ml) for 5 hours. The mixture was evaporated to dryness, the solid triturated with water, filtered and washed with water (20 ml) to give the desired product (137 mg). MS (ESP): 506 (M+) for C24H33FN5O6;

reactant | 3-(4-(4-((3R)-3-Acetoxy-4-trimethylarnmoniobutanoyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one chloride | 0.33 mmol, 200 mg | [Cl-].C(C)(=O)O[C@H](CC(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F)C[N+](C)(C)C
reactant | potassium carbonate | 0.49 mmol, 67 mg | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 20 ml | CO | CH4O
product | 3-(4-(4-((3R)-3-Hydroxy-4-trimethylammoniobutanoyl)piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one chloride | 137 mg | [Cl-].O[C@H](CC(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F)C[N+](C)(C)C | InChI=1S/C24H33FN5O6.ClH/c1-30(2,3)15-18(31)13-23(32)28-9-7-27(8-10-28)21-5-4-17(12-20(21)25)29-14-19(36-24(29)33)16-34-22-6-11-35-26-22;/h4-6,11-12,18-19,31H,7-10,13-16H2,1-3H3;1H/q+1;/p-1/t18-,19-;/m1./s1
